US04188485
To a cooled solution of lithium aluminum hydride in tetrahydrofuran (35.3 parts by volume of 0.9 M) is added 0.85 parts by volume of concentrated sulfuric acid dropwise over 5 minutes. The resultant mixture is stirred at 0° C. for about 1 hour and then solution of 3 parts of 4-tert-butyl-1-[(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)-carbonyl]-4-piperidinol in 50 parts by volume of tetrahydrofuran is added over a 5 minute period. The resultant mixture is allowed to warm to room temperature and stirred at that temperature for about 24 hours. Then, the mixture is cooled in an ice bath and quenched with the careful sequential addition of 1.2 part by volume of water, 1.2 part by volume of 15% sodium hydroxide, and 3.6 parts by volume of water. The resultant mixture is stirred for about 4 hours, the aluminum salts removed by filtration and washed well with ethyl ether. The filtrate is concentrated in vacuo to give 4-tert-butyl-1-[(10,11-dihydro-5H-dibenzo[a,d]-cyclohepten-5-yl)methyl]-4-piperidinol, as a colorless glass which crystallizes on standing. This compound is identical to that obtained in Example 1.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 4-tert-butyl-1-[(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)-carbonyl]-4-piperidinol | C(C)(C)(C)C1(CCN(CC1)C(=O)C1C2=C(CCC3=C1C=CC=C3)C=CC=C2)O | C25H31NO2
solvent | tetrahydrofuran | 0.9 M | O1CCCC1 | C4H8O
product | 4-tert-butyl-1-[(10,11-dihydro-5H-dibenzo[a,d]-cyclohepten-5-yl)methyl]-4-piperidinol | C(C)(C)(C)C1(CCN(CC1)CC1C2=C(CCC3=C1C=CC=C3)C=CC=C2)O | C25H33NO
